US05332739
A mixture of 1.6 g of 1-(4-acetylphenyl)piperazine and 1.1 g of 1,3-dimethyl-6-[2-(p-toluenesulfonyloxy)-ethylamino]-2,4(1H,3H)-pyrimidinedione was heated at 80° C. for 6 hours, and after standing for cooling, the reaction solution was poured into a 5% aqueous sodium carbonate solution, stirred and then extracted with chloroform. The chloroform solution was washed with water and then concentrated, and the resultant residue was purified through a silica gel column chromatograph (chloroform/methanol=50/1 in volume ratio), thereby obtaining 0.5 g of 1,3-dimethyl-6-[2-(4-[4-acetylphenyl]piperazin-1-yl)ethylamino]-2,4(1H,3H)-pyrimidinedione.

reactant | 1-(4-acetylphenyl)piperazine | 1.6 g | C(C)(=O)C1=CC=C(C=C1)N1CCNCC1 | C12H16N2O
reactant | 1,3-dimethyl-6-[2-(p-toluenesulfonyloxy)-ethylamino]-2,4(1H,3H)-pyrimidinedione | 1.1 g | CN1C(N(C(C=C1NCCOS(=O)(=O)C1=CC=C(C=C1)C)=O)C)=O | C15H19N3O5S
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
product | 1,3-dimethyl-6-[2-(4-[4-acetylphenyl]piperazin-1-yl)ethylamino]-2,4(1H,3H)-pyrimidinedione | 0.5 g | CN1C(N(C(C=C1NCCN1CCN(CC1)C1=CC=C(C=C1)C(C)=O)=O)C)=O | C20H27N5O3
